US07745484B2
Step 6: 2,2-dimethyl-6-neopentyl-1,2,3,4-tetrahydroquinolin-4-amine
To neopentylmagnesium chloride (1.65 ml, 1.65 mmol) was added zinc(II) chloride (2.19 ml, 1.10 mmol) dropwise—strong exotherm was observed. The resulting mixture stirred for 10 minutes. A solution of 6-bromo-2,2-dimethyl-1,2,3,4-tetrahydroquinolin-4-amine (0.0700 g, 0.274 mmol) in tetrahydrofuran (1.37 ml, 0.274 mmol) was then added followed by palladium tetrakistriphenylphosphine (0.0317 g, 0.0274 mmol). The reaction vessel was sealed and heated to 65 deg C. The reaction mixture was stirred for 6 hours. The crude mixture was filtered through a plug of celite with EtOAc and concentrated in the presence of silica gel. The crude mixture was purified with the MPLC (100% DCM to 100% 90:10:1 DCM:MeOH:NH4OH) to provide the desired product. MS m/z: 230 (M−NH2).

reactant | neopentylmagnesium chloride | 1.65 mmol, 1.65 ml | C(C(C)(C)C)[Mg]Cl
reactant | 6-bromo-2,2-dimethyl-1,2,3,4-tetrahydroquinolin-4-amine | 0.274 mmol, 0.0700 g | BrC=1C=C2C(CC(NC2=CC1)(C)C)N | C11H15BrN2
reactant | tetrahydrofuran | 0.274 mmol, 1.37 ml | O1CCCC1 | C4H8O
catalyst | zinc(II) chloride | 1.10 mmol, 2.19 ml | [Cl-].[Zn+2].[Cl-]
product | 2,2-dimethyl-6-neopentyl-1,2,3,4-tetrahydroquinolin-4-amine | CC1(NC2=CC=C(C=C2C(C1)N)CC(C)(C)C)C | C16H26N2
